US06077954
N-m-Nitrobenzyl-3-amino-1-propanol
To a solution of m-nitrobenzaldehyde (94.23 mmol) and trimethylorthoformate (15.5 mL, 141 mmol) in MeOH (300 mL) is added dropwise 3-amino-1-propanol (7.21 mL, 94.23 mmol) at room temperature. The reaction is allowed to stir at room temperature for 5 hours followed by cooling to 0° C. in an ice bath. Sodium borohydride (3.56 g, 94.23 mmol) is added in two portions and when the bubbling stops the solvent is evaporated. The resulting residue is partitioned between ethyl acetate (75 mL) and water (75 mL). The aqueous layer is extracted twice with ethyl acetate (75 mL). The ethyl acetate extracts are collected and washed twice with Brine (50 mL), dried over MgSO4, filtered, and concentrated. Drying will give the title compound.

reactant | m-nitrobenzaldehyde | 94.23 mmol | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | trimethylorthoformate | 141 mmol, 15.5 mL | COC(OC)OC | C4H10O3
reactant | 3-amino-1-propanol | 94.23 mmol, 7.21 mL | NCCCO | C3H9NO
reactant | Sodium borohydride | 94.23 mmol, 3.56 g | [BH4-].[Na+]
solvent | MeOH | 300 mL | CO | CH4O
product | N-m-Nitrobenzyl-3-amino-1-propanol | [N+](=O)([O-])C=1C=C(CNCCCO)C=CC1 | C10H14N2O3
